US07790747B2
Using general procedure E with 3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butylamine (2.30 g, 10.7 mmol) and 2,6-dimethylbenzoic acid (1.77 g, 11.8 mmol) followed by purification by column chromatography on silica gel (1-5% MeOH/CH2Cl2) gave N-[3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyl]-2,6-dimethyl-benzamide (3.11 g, 83%).

reactant | 3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butylamine | 10.7 mmol, 2.30 g | O1CCOC12CCN(CC2)C(CCN)C | C11H22N2O2
reactant | 2,6-dimethylbenzoic acid | 11.8 mmol, 1.77 g | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
product | N-[3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyl]-2,6-dimethyl-benzamide | 3.11 g, 83% | O1CCOC12CCN(CC2)C(CCNC(C2=C(C=CC=C2C)C)=O)C | C20H30N2O3
